US07468371B2
(2S)-2-bromo-N-(3-methylphenyl)propanamide
To a solution of (S)-(−)-2-bromopropionic acid (0.25 mL, 2.77 mmol), m-toluidine (0.30 mL, 2.77 mmol) and 1-hydroxybenzotriazole hydrate (560 mg, 4.16 mmol) in tetrahydrofuran (25 mL) was added a 1M solution of 1,3-dicyclohexylcarbodiimide in dichloromethane (5.54 mL, 5.54 mmol). The mixture was stirred at about 0° C. for about 2 hours, then it was warmed to room temperature and filtered. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel using hexane/ethyl acetate (2:1) as eluent to provide the desired product. MS (DCI-NH3): m/z 259, 261 (M+NH4)+.

reactant | (S)-(−)-2-bromopropionic acid | 2.77 mmol, 0.25 mL | Br[C@H](C(=O)O)C | C3H5BrO2
reactant | m-toluidine | 2.77 mmol, 0.30 mL | NC1=CC(=CC=C1)C | C7H9N
reactant | 1-hydroxybenzotriazole hydrate | 4.16 mmol, 560 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1,3-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dichloromethane | 5.54 mmol, 5.54 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | (2S)-2-bromo-N-(3-methylphenyl)propanamide | Br[C@H](C(=O)NC1=CC(=CC=C1)C)C | C10H12BrNO
